US05278073
8-anilino-1-naphthalene sulfonic acid;
4,5-dihydroxynaphthalene-2,7-disulfonic acid; 8-amino-1-naphthol-3,6-disulfonic acid; and 8-amino-1-naphthalene sulfonic acid.

reactant | 4,5-dihydroxynaphthalene-2,7-disulfonic acid | OC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O8S2
reactant | 8-amino-1-naphthalene sulfonic acid | NC=1C=CC=C2C=CC=C(C12)S(=O)(=O)O | C10H9NO3S
product | 8-anilino-1-naphthalene sulfonic acid | N(C1=CC=CC=C1)C=1C=CC=C2C=CC=C(C12)S(=O)(=O)O | C16H13NO3S
